US06451814B1
[4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidin-1-yl]-(3-methyl-thiophen-2-yl)-methanone
{4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-1-piperidinyl}(3-methyl-2-thienyl)methanone (0.083 g, 0.111 mmol) was reacted according to Procedure H (eluant: 5:1 chloroform-methanol) to give the title compound (0.048 g, 0.094 mmol).

reactant | {4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-1-piperidinyl}(3-methyl-2-thienyl)methanone | 0.111 mmol, 0.083 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C(OC[C@H](CNCCC2=CC=C(NC3CCN(CC3)C(=O)C=3SC=CC3C)C=C2)O)C=C1 | C44H53N3O4SSi
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | [4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidin-1-yl]-(3-methyl-thiophen-2-yl)-methanone | 0.094 mmol, 0.048 g | O[C@@H](CNCCC1=CC=C(C=C1)NC1CCN(CC1)C(=O)C=1SC=CC1C)COC1=CC=C(C=C1)O | C28H35N3O4S
